US06552013B1
Synthesis of N-[(1RS,2RS)-1,2,3,4-tetrahydro-1-hydroxy-2-naphthyl]-alanine ethyl ester
Following General Procedure AM using Ethyl-D-lactate (Fluka) and N-[(1RS,2RS)-1,2,3,4-tetrahydro-1-hydroxy-2-naphthyl]-amine (Liebigs Ann. Chem. 1992, pp273, incorporated herein by reference), the title compound was prepared. C15H21NO3 (MW=263.335); mass spectroscopy (MH+) 264.

reactant | Ethyl-D-lactate | C(C)OC([C@H](O)C)=O | C5H10O3
reactant | N-[(1RS,2RS)-1,2,3,4-tetrahydro-1-hydroxy-2-naphthyl]-amine | OC1C(CCC2=CC=CC=C12)N | C10H13NO
product | N-[(1RS,2RS)-1,2,3,4-tetrahydro-1-hydroxy-2-naphthyl]-alanine ethyl ester | C(C)OC([C@@H](NC1C(C2=CC=CC=C2CC1)O)C)=O | C15H21NO3
